US07199239B2
Intermediate 42: 2-(Methylsulfonyl)-4-[4-(trifluoromethyl)phenyl]pyrimidine
To a suspension of 2-(methylthio)-4-[4-(trifluoromethyl)phenyl]pyrimidine (2.24 g, 8.4 mmol) in methanol (85 mL) and water (85 mL) at 0° C. was added oxone™ (15.25 g, 24.8 mmol). The reaction was stirred at 0° C. for 1 h and then at room temperature for 18 h. The reaction mixture was diluted with water (200 mL) and extracted with chloroform (2×250 mL). The organic solution was dried (Na2SO4) filtered and evaporated to afford the title compound as a white solid (2.235 g).

reactant | 2-(methylthio)-4-[4-(trifluoromethyl)phenyl]pyrimidine | 8.4 mmol, 2.24 g | CSC1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2S
reactant | oxone | OOS(=O)[O-].[K+]
reactant | methanol | 85 mL | CO | CH4O
solvent | water | 85 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 2-(Methylsulfonyl)-4-[4-(trifluoromethyl)phenyl]pyrimidine | 2.235 g | CS(=O)(=O)C1=NC=CC(=N1)C1=CC=C(C=C1)C(F)(F)F | C12H9F3N2O2S
